US08084620B2
Step 4 A solution of (R)-5-(3-(benzyloxycarbonylamino)piperidin-1-yl)-8-cyano-9H-carbazole-2-carboxylic acid (130 mg, 0.277 mmol), EDC (74.5 mg, 0.388 mmol), HOBT (59.5 mg, 0.388 mmol), and 1-methylpiperazine (0.092 mL, 0.832 mmol) in THF-DCM-DMF (4:1:1, 6 mL) was stirred at rt over a weekend. The mixture was concentrated and partitioned between EtOAc and NaHCO3 (aq). The organic phase was washed with brine, dried and concentrated. The residue was purified by column chromatography (eluting with a gradient from 100:0 to 92.5:7.5 DCM-2 M methanolic ammonia) to provide (R)-benzyl 1-(1-cyano-7-(4-methylpiperazine-1-carbonyl)-9H-carbazol-4-yl)piperidin-3-ylcarbamate as a yellow solid (60 mg). 1H NMR (400 MHz, DMSO-d6) δ 12.31 (s, 1H) 8.09 (d, J=8.13 Hz, 1H) 7.82 (d, J=8.35 Hz, 1H) 7.64 (s, 1H) 7.49 (d, J=7.69 Hz, 1H) 7.24-7.40 (m, 6H) 6.93 (d, J=8.35 Hz, 1H) 4.87-5.11 (m, 2H) 3.00-3.96 (m, 12H) 2.83 (s, 3H) 2.55-2.70 (m, 1H) 1.73-2.08 (m, 3H) 1.34-1.57 (m, 1H).). Mass spectrum m/z 551.2 (M+H)+.

reactant | (R)-5-(3-(benzyloxycarbonylamino)piperidin-1-yl)-8-cyano-9H-carbazole-2-carboxylic acid | 0.277 mmol, 130 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1CN(CCC1)C1=C2C=3C=CC(=CC3NC2=C(C=C1)C#N)C(=O)O | C27H24N4O4
reactant | EDC | 0.388 mmol, 74.5 mg
reactant | HOBT | 0.388 mmol, 59.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-methylpiperazine | 0.832 mmol, 0.092 mL | CN1CCNCC1 | C5H12N2
solvent | THF DCM DMF | 6 mL | C1CCOC1.C(Cl)Cl.CN(C)C=O
product | (R)-benzyl 1-(1-cyano-7-(4-methylpiperazine-1-carbonyl)-9H-carbazol-4-yl)piperidin-3-ylcarbamate | 60 mg | C(#N)C1=CC=C(C=2C3=CC=C(C=C3NC12)C(=O)N1CCN(CC1)C)N1C[C@@H](CCC1)NC(OCC1=CC=CC=C1)=O | C32H34N6O3
